US06667335B2
[2-(3,4-Dichloro-phenyl)-isonicotinic Acid Methyl Ester
The title compound, MS: m/e=281.0 (M+) was obtained as a light brown solid (59% yield) by the reaction of 2-iodo-isonicotinic acid methyl ester with 3,4-dichlorophenyl boronic acid.

reactant | 2-iodo-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)I)=O | C7H6INO2
reactant | 3,4-dichlorophenyl boronic acid | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
product | 2-(3,4-Dichloro-phenyl)-isonicotinic Acid Methyl Ester | COC(C1=CC(=NC=C1)C1=CC(=C(C=C1)Cl)Cl)=O | C13H9Cl2NO2
